US09062046B2
Step 2: 2-(cyanoimino)-1-(6-(2-cyanopropan-2-yl)pyridin-3-yl)-3-methyl-2,3-dihydro-1H-imidazo[4,5-c]quinolin-8-ylboronic acid
N-(8-bromo-1-(6-(2-cyanopropan-2-yl)pyridin-3-yl)-3-methyl-1H-imidazo[4,5-c]quinolin-2(3H)-ylidene)cyanamide (2.463 mmol) was dissolved in 15 mL of dioxane under argon atmosphere. Bis(pinacolato)diboron (1.347 mmol), potassium acetate (2.246 mmol) and (1,1-bis(diphenylphosphino)ferrocene)-dichloropalladium (II) complex with DCM (50 mg) while stirring. The reaction mixture was refluxed for 8 h. After completion of the reaction, the reaction mixture was cooled and diluted with 15 mL ethyl acetate and filtered through celite. The filtrate was concentrated and the crude product was purified (silica gel column, ethyl acetate/petroleum ether as eluent) to obtain the title compound.

reactant | N-(8-bromo-1-(6-(2-cyanopropan-2-yl)pyridin-3-yl)-3-methyl-1H-imidazo[4,5-c]quinolin-2(3H)-ylidene)cyanamide | 2.463 mmol | BrC1=CC=2C3=C(C=NC2C=C1)N(C(N3C=3C=NC(=CC3)C(C)(C)C#N)=NC#N)C | C21H16BrN7
reactant | Bis(pinacolato)diboron | 1.347 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.246 mmol | C(C)(=O)[O-].[K+]
reactant | DCM | 50 mg | C(Cl)Cl | CH2Cl2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 2-(cyanoimino)-1-(6-(2-cyanopropan-2-yl)pyridin-3-yl)-3-methyl-2,3-dihydro-1H-imidazo[4,5-c]quinolin-8-ylboronic acid | C(#N)N=C1N(C2=C(C=NC=3C=CC(=CC23)B(O)O)N1C)C=1C=NC(=CC1)C(C)(C)C#N | C21H18BN7O2
